US05130119
(a) 5-Fluoro-3-nitro-salicylic acid
6.24 g (40 mmol) of 5-fluoro-salicylic acid is dissolved in 62.4 ml of acetonitrile with warming, the solution is cooled to 0° C. and, with this temperature being maintained a solution of 2.96 ml (44 mmol) of 65% HNO3 in 14.8 ml of acetonitrile is instilled. The reaction mixture is stirred for 24 hours at 0° C., then filtered over 7.5 g of silica gel 60 and evaporated to dryness 6.1 g =75.8% of the theoretical yield is obtained of the crude product, which is used in the next reaction without purification.

reactant | 5-fluoro-salicylic acid | 40 mmol, 6.24 g | FC1=CC=C(C(C(=O)O)=C1)O | C7H5FO3
reactant | HNO3 | 44 mmol, 2.96 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetonitrile | 62.4 ml | C(C)#N | C2H3N
solvent | acetonitrile | 14.8 ml | C(C)#N | C2H3N
product | 5-Fluoro-3-nitro-salicylic acid | FC1=CC(=C(C(C(=O)O)=C1)O)[N+](=O)[O-] | C7H4FNO5
